US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 4 using (S)-4-amino-6-chlorothiochromane-7-carboxylic acid methyl ester (450 mg) and benzyloxycarbonyl chloride (0.31 ml), the objective (S)-4-(benzyloxycarbonylamino)-6-chlorothiochromane-7-carboxylic acid methyl ester (478 mg) was obtained as colorless crystals.

reactant | (S)-4-amino-6-chlorothiochromane-7-carboxylic acid methyl ester | 450 mg | COC(=O)C1=C(C=C2[C@H](CCSC2=C1)N)Cl | C11H12ClNO2S
reactant | benzyloxycarbonyl chloride | 0.31 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
product | (S)-4-(benzyloxycarbonylamino)-6-chlorothiochromane-7-carboxylic acid methyl ester | 478 mg | COC(=O)C1=C(C=C2[C@H](CCSC2=C1)NC(=O)OCC1=CC=CC=C1)Cl | C19H18ClNO4S
